US08022062B2
7-Chloro-6-[5-(cyclohexylmethylcarbamoyl)-pyridin-2-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 375, using 3-tert-butoxycarbonyl-6-(5-carboxy-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine and aminomethylcyclohexane to give, after deprotection by the General Procedure 1-4, the title compound as a white solid. MS (APCI+) m/z: 444 (M+H)+.

reactant | 3-tert-butoxycarbonyl-6-(5-carboxy-pyridin-2-ylmethylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=NC=C(C=C2)C(=O)O | C22H25ClN2O4S
reactant | aminomethylcyclohexane | NCC1CCCCC1 | C7H15N
product | 7-Chloro-6-[5-(cyclohexylmethylcarbamoyl)-pyridin-2-ylmethylthio]-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=NC=C(C=C1)C(NCC1CCCCC1)=O | InChI=1S/C24H30ClN3OS.ClH/c25-22-9-7-18-10-12-26-13-11-21(18)23(22)30-16-20-8-6-19(15-27-20)24(29)28-14-17-4-2-1-3-5-17;/h6-9,15,17,26H,1-5,10-14,16H2,(H,28,29);1H
